US04547518
4-Amino-N-(4,5-dihydro-1-ethyl-1H-pyrazol-4-yl)benzamide
In accordance with the procedure of Example 2, 4-amino-N-(1,2-diethyl-4-pyrazolidinyl)benzamide is reacted with sodium hypochlorite and the product is isolated.

reactant | 4-amino-N-(1,2-diethyl-4-pyrazolidinyl)benzamide | NC1=CC=C(C(=O)NC2CN(N(C2)CC)CC)C=C1 | C14H22N4O
reactant | sodium hypochlorite | Cl[O-].[Na+]
product | 4-Amino-N-(4,5-dihydro-1-ethyl-1H-pyrazol-4-yl)benzamide | NC1=CC=C(C(=O)NC2C=NN(C2)CC)C=C1 | C12H16N4O
